US08664220B2
Step 1: 1-{4′-[3-Methyl-4-(6-phenylethynyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
1-{4′-[4-(6-Bromo-pyridin-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (0.200 g, 0.386 mmol) was dissolved in toluene along with phenylacetylene (0.051 mL, 0.46 mmol), copper(I) iodide (0.367 g, 1.93 mmol), triethylamine (0.269 mL, 1.93 mmol) and bis(triphenylphosphine)palladium(II) dichloride (0.032 g, 0.039 mmol). The reaction was heated to 40° C. for 3 days then cooled, diluted with EtOAc and filtered through a plug of silica gel. The crude material was purified on silica gel to yield the title compound.

reactant | 1-{4′-[4-(6-Bromo-pyridin-2-ylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 0.386 mmol, 0.200 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)Br | C27H24BrN3O3
reactant | phenylacetylene | 0.46 mmol, 0.051 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 1.93 mmol, 0.269 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(I) iodide | 1.93 mmol, 0.367 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.039 mmol, 0.032 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-{4′-[3-Methyl-4-(6-phenylethynyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)C#CC1=CC=CC=C1 | C35H29N3O3
